US09315458B2
A) 1-methyl-1H-pyrazol-3-yl trifluoromethanesulfonate
To a solution of 1-methyl-1H-pyrazol-3-ol (2.92 g) in pyridine (50.0 mL) was added trifluoromethanesulfonic anhydride (6.03 mL) under ice-cooling, and the mixture was stirred for 1 hr. The reaction mixture was diluted with saturated aqueous sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (5.44 g).

reactant | 1-methyl-1H-pyrazol-3-ol | 2.92 g | CN1N=C(C=C1)O | C4H6N2O
reactant | trifluoromethanesulfonic anhydride | 6.03 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 50.0 mL | N1=CC=CC=C1 | C5H5N
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-methyl-1H-pyrazol-3-yl trifluoromethanesulfonate | 5.44 g | FC(S(=O)(=O)OC1=NN(C=C1)C)(F)F | C5H5F3N2O3S
